US09447035B2
Step 3: Preparation of (S)-2-[4-(3-tert-butoxycarbonylaminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4- tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester:
The title compound was prepared using a similar procedure as described in Example 5, Step 5, starting from (S)-2-(2,6-dichloro-4-hydroxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (558 mg, 1.07 mmol), 3-tert-butoxycarbonylaminopropyl bromide (306 mg, 1.28 mmol), and potassium carbonate (445 mg, 3.22 mmol), and after ISCO column chromatography purification, resulted in a white solid (654 mg, 87%). ES(+)-HRMS m/e calcd. for C34H42Cl2N4O8 (M+H)+ 705.2453, obsd. 705.2451.

reactant | (S)-2-(2,6-dichloro-4-hydroxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 1.07 mmol, 558 mg | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1Cl)O)Cl)=O)=O | C26H27Cl2N3O6
reactant | 3-tert-butoxycarbonylaminopropyl bromide | 1.28 mmol, 306 mg | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
reactant | potassium carbonate | 3.22 mmol, 445 mg | C([O-])([O-])=O.[K+].[K+]
product | (S)-2-[4-(3-tert-butoxycarbonylaminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4- tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1Cl)OCCCNC(=O)OC(C)(C)C)Cl)=O)=O | C34H42Cl2N4O8
